US05175301
1-(4-Chlorobenzyl)amino-1-methylamino-2-nitroethylene (Compound 70)
In 100 ml of EtOH on reflux was dissolved 2.59 g (0.01 mole) of 1-(4-chlorobenzyl)amino-1-methylthio-2-nitroethylene, and with refluxing continued, a solution of 1.94 g of 40% aqueous methylamine solution in 10 ml of EtOH was added dropwise over a period of 50 minutes. After completion of dropwise addition, the mixture was further refluxed for 15 minutes, at the end of which time it was cooled with ice-water, whereupon crystals separated out. The crystals were collected by filtration, washed with EtOH and ether in that order, and dried. The procedure gave 1.66 g of the title compound as white crystals.

reactant | 1-(4-chlorobenzyl)amino-1-methylthio-2-nitroethylene | 0.01 mole, 2.59 g | ClC1=CC=C(CNC(=C[N+](=O)[O-])SC)C=C1 | C10H11ClN2O2S
reactant | methylamine | 1.94 g | CN | CH5N
solvent | EtOH | 100 ml | CCO | C2H6O
solvent | EtOH | 10 ml | CCO | C2H6O
product | 1-(4-Chlorobenzyl)amino-1-methylamino-2-nitroethylene | 1.66 g | ClC1=CC=C(CNC(=C[N+](=O)[O-])NC)C=C1 | C10H12ClN3O2
